US07195769B2
43. Tablet Containing Isoniazid in Molecular Dispersion (in Delayed Release) Form.
Pass Pyrazinamide, Ethambutol Hydrochloride, Rifampicin and Lactose through a sieve and granulate with Starch Paste prepared in Purified Water. Pass the wet mass through multimill and dry the granules at 50–60° C. Pass the dried granules through sieve of mesh size 16. Pass Magnesium Stearate, Purified Talc and Sodium Starch Glycollate through sieve of mesh size 60 and mix with dried granules and isoniazid delayed release powder. Compress the blend into tablets.

reactant | Pyrazinamide | N1=C(C=NC=C1)C(=O)N | C5H5N3O
reactant | Ethambutol Hydrochloride | CC[C@@H](CO)NCCN[C@@H](CC)CO.Cl
reactant | Rifampicin | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=C2O)C(=C3O)/C=N/N5CCN(CC5)C)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C43H58N4O12
reactant | Lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
solvent | Water | O | H2O
product | Isoniazid | C1=CN=CC=C1C(=O)NN | C6H7N3O
